US06821927B1
Methyl 2-{2-[6-(2-chlorophenoxy)-5-fluoro-pyrimidin-4-yloxy]-phenyl}-2-methoxyiminoacetate
40 g (0.29 mol) of ground potassium carbonate and 58 g (0.24 mol) of 4-(2-chlorophenoxy)-5,6-difluoropyrimidine are added to a solution of 50 g (0.24 mol) of methyl 2-(2-hydroxyphenyl)-2-methoxyiminoacetate in 600 ml of acetonitrile, and the mixture is stirred at 25° C. for 18 hours. The reaction mixture is poured into 3 l of ice-water and the resulting solid is filtered off with suction. This gives 102 g (98.7% of theory) of methyl 2-{2-[6-(2-chlorophenoxy)-5-fluoro-pyrimidin-4-yloxy]-phenyl}-2-methoxyiminoacetate.

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2-chlorophenoxy)-5,6-difluoropyrimidine | 0.24 mol, 58 g | ClC1=C(OC2=NC=NC(=C2F)F)C=CC=C1 | C10H5ClF2N2O
reactant | methyl 2-(2-hydroxyphenyl)-2-methoxyiminoacetate | 0.24 mol, 50 g | OC1=C(C=CC=C1)C(C(=O)OC)=NOC | C10H11NO4
solvent | acetonitrile | 600 ml | C(C)#N | C2H3N
product | Methyl 2-{2-[6-(2-chlorophenoxy)-5-fluoro-pyrimidin-4-yloxy]-phenyl}-2-methoxyiminoacetate | ClC1=C(OC2=C(C(=NC=N2)OC2=C(C=CC=C2)C(C(=O)OC)=NOC)F)C=CC=C1 | C20H15ClFN3O5
